US06388084B1
To a solution of 1,4-dimethyl-6-(trifluoromethyl)-1H-pyridin-2-one (1.44 g, 7.23 mmol), trifluoroacetic acid (9 mL) and trifluoroacetic anhydride (1.53 mL, 10.85 mmol) was added NIS (2.569 g, 10.85 mmol) at room temperature. Then, the mixture was heated to 70-85° C. and was stirred for 2 h. The reaction mixture was cooled to room temperature and saturated sodium carbonate solution was added slowly to neutralize the solution. Then, the aqueous mixture was extracted with ethyl acetate (2×50 mL). The combined extracts were washed successively with saturated sodium thiosulfate solution (100 mL) and brine solution (100 mL) and were dried over anhydrous sodium sulfate. Filtration of the drying agent and concentration of the solvent gave a crude product, which was purified by silica gel chromatography on a Biotage (40m) column to afford 1.02 g (45% yield) of 1,4-dimethyl-3-iodo-6-(trifluoromethyl)-1H-pyridin-2-one as an amorphous white solid. ES-LRMS: m/z 318.1 (M+H), 381.2 (M+Na+CH3CN).

reactant | 1,4-dimethyl-6-(trifluoromethyl)-1H-pyridin-2-one | 7.23 mmol, 1.44 g | CN1C(C=C(C=C1C(F)(F)F)C)=O | C8H8F3NO
reactant | trifluoroacetic acid | 9 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 10.85 mmol, 1.53 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NIS | 10.85 mmol, 2.569 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1,4-dimethyl-3-iodo-6-(trifluoromethyl)-1H-pyridin-2-one | 1.02 g, 45% yield | CN1C(C(=C(C=C1C(F)(F)F)C)I)=O | C8H7F3INO
